US06310056B1
To a solution of 0.65 g of (3S,4R)-1-[(allyloxycarbonyl)(triphenylphosphoranylidene)methyl]-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-(carboxymethyl)azetidine-2-one in 4 ml of toluene were added under ice-cooling 0.14 ml of triethylamine and 0.12 ml of pivaloyl chloride, and the mixture was stirred at room temperature. The resulting precipitate was collected by filtration, and the filtrate was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1) to give 0.60 g of (3S,4R)-1-[(allyloxycarbonyl)(triphenylphosphoranylidene)methyl]-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-[(pivaloyloxycarbonyl)methyl]azetidine-2-one.

reactant | (3S,4R)-1-[(allyloxycarbonyl)(triphenylphosphoranylidene)methyl]-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-(carboxymethyl)azetidine-2-one | 0.65 g | C(C=C)OC(=O)C(N1C([C@@H]([C@H]1CC(=O)O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H44NO6PSi
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.12 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | (3S,4R)-1-[(allyloxycarbonyl)(triphenylphosphoranylidene)methyl]-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-[(pivaloyloxycarbonyl)methyl]azetidine-2-one | 0.60 g | C(C=C)OC(=O)C(N1C([C@@H]([C@H]1CC(=O)OC(C(C)(C)C)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H52NO7PSi
